US09375002B2
0.20 g (1.09 mmol) of 5-bromo-2-cyanopyrimidine (ABCR 245244), 0.325 g (1.52 mmol) of 6-ethyl-3,4-dihydro-2H-chromen-4-aminium chloride and 0.35 g (3.3 mmol) of triethylamine in 1.5 ml of N,N-dimethylacetamide are heated in a closed cuvette in the microwave at 200° C. for 120 minutes (Biotage Initiator, http://www.biotage.com/DynPage.aspx?id=22001). The crude mixture obtained in this manner is applied to silica gel and purified by column chromatography using the mobile phase heptane/ethyl acetate. Concentration gives 0.03 g of 5-[(6-ethyl-3,4-dihydro-2H-chromen-4-yl)amino]pyrimidine-2-carbonitrile (wax-like) (yield 8% at a purity of 80%).

reactant | 5-bromo-2-cyanopyrimidine | 1.09 mmol, 0.20 g | BrC=1C=NC(=NC1)C#N | C5H2BrN3
reactant | 6-ethyl-3,4-dihydro-2H-chromen-4-aminium chloride | 1.52 mmol, 0.325 g | [Cl-].C(C)C=1C=C2C(CCOC2=CC1)[NH3+]
reactant | triethylamine | 3.3 mmol, 0.35 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | 1.5 ml | CN(C(C)=O)C | C4H9NO
product | 5-[(6-ethyl-3,4-dihydro-2H-chromen-4-yl)amino]pyrimidine-2-carbonitrile | 0.03 g, yield 8% | C(C)C=1C=C2C(CCOC2=CC1)NC=1C=NC(=NC1)C#N | C16H16N4O
